US09340506B2
2-[4-(Cyclopropanesulfonyl)phenyl]-2-(tetrahydro-pyran-4-yloxy)acetic acid
To a stirred solution of intermediate 2-[4-(Cyclopropanesulfonyl)phenyl]-2-(tetrahydro-pyran-4-yloxy)acetic acid ethyl ester (8.0 g, 21 mmol) in tetrahydrofuran (80 mL) was added a solution of LiOH (2.27 g in 40 mL of water, 54 mmol) at 25° C. and stirred for 2 h. Completion of reaction was confirmed by TLC. Organic solvent was removed under reduced pressure. The aqueous layer was acidified to pH 2-3 using 1 N HCl. White solid obtained was filtered through Buchner funnel dried under vacuum to afford pure product.

reactant | 2-[4-(Cyclopropanesulfonyl)phenyl]-2-(tetrahydro-pyran-4-yloxy)acetic acid ethyl ester | 21 mmol, 8.0 g | C(C)OC(C(OC1CCOCC1)C1=CC=C(C=C1)S(=O)(=O)C1CC1)=O | C18H24O6S
reactant | LiOH | 54 mmol, 40 mL, 2.27 g | [Li+].[OH-]
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 2-[4-(Cyclopropanesulfonyl)phenyl]-2-(tetrahydro-pyran-4-yloxy)acetic acid | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)OC1CCOCC1 | C16H20O6S
